US09328118B2
Bis(pinacolato)diboron (17.2 g), potassium acetate (13.3 g), and dichlorobis(triphenylphosphine)palladium (II) (1.9 g) were added to a solution of tert-butyl 4-{2-[4-bromo-2-(trifluoromethyl)phenoxy]ethyl}piperidine-1-carboxylate (20.4 g) in dioxane (204 mL) at room temperature in an argon atmosphere, and the mixture was stirred at 100° C. for 4 hours. After the reaction mixture was cooled to room temperature, extraction thereof was performed using EtOAc, and the extract was washed with water. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=6:1 to 4:1), whereby tert-butyl 4-{2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-(trifluoromethyl)phenoxy]ethyl}piperidine-1-carboxylate (22.0 g) was obtained as a colorless oil.

reactant | Bis(pinacolato)diboron | 17.2 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 13.3 g | C(C)(=O)[O-].[K+]
reactant | tert-butyl 4-{2-[4-bromo-2-(trifluoromethyl)phenoxy]ethyl}piperidine-1-carboxylate | 20.4 g | BrC1=CC(=C(OCCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)C(F)(F)F | C19H25BrF3NO3
solvent | dioxane | 204 mL | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 1.9 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl 4-{2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-(trifluoromethyl)phenoxy]ethyl}piperidine-1-carboxylate | 22.0 g | CC1(OB(OC1(C)C)C1=CC(=C(OCCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)C(F)(F)F)C | C25H37BF3NO5
